US08022062B2
5-Aminomethyl-2-(1-hydroxy-3-methyl-butyl)-pyridine hydrochloride:
Add 10% Pd/C (20 mg) to a solution of 5-azidomethyl-2-(3-methyl-butyryl)-pyridine (80 mg, 0.367 mmol) in ethanol (10 mL) containing concentrated HCl (1 mL). Submit the mixture to hydrogenation at atmospheric pressure for 2 h. Filter the reaction mixture over Celite® and concentrate in vacuo to afford the desired intermediate (95 mg, 98%). MS (ES+) m/z: 195 (M+H)+.

reactant | 5-azidomethyl-2-(3-methyl-butyryl)-pyridine | 0.367 mmol, 80 mg | N(=[N+]=[N-])CC=1C=CC(=NC1)C(CC(C)C)=O | C11H14N4O
reactant | HCl | 1 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 5-Aminomethyl-2-(1-hydroxy-3-methyl-butyl)-pyridine hydrochloride | 95 mg, 98% | Cl.NCC=1C=CC(=NC1)C(CC(C)C)O | InChI=1S/C11H18N2O.ClH/c1-8(2)5-11(14)10-4-3-9(6-12)7-13-10;/h3-4,7-8,11,14H,5-6,12H2,1-2H3;1H
